simulator lang=spectre
global 0

ahdl_include "dut.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0
Vsig (sensor_reading 0) vsource type=pwl wave=[ 0 0 20n 0.2 45n 0.7 70n 0.3 95n 0.85 120n 0.1 ]

XDUT (sensor_reading vdd vss trip_flag) v2_ext_threshold_detector_001

tran tran stop=120n maxstep=500p
save sensor_reading trip_flag
